US08067448B2
4-((1R,2S)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)benzo[b]thiophene-7-carbonitrile
To a solution of 4-((1R,2S)-2-(tert-butyldimethylsilyloxy)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)propylamino)benzo[b]thiophene-7-carbonitrile (355 mg, 0.69 mmol) in THF (33 mL) was added TBAF (0.70 mL, 0.70 mmol, 1 M solution in THF) at −50° C. After addition, the reaction mixture was stirred between −30° C. to −50° C. for 2 h, then quenched by adding saturated aqueous NH4Cl solution (10 mL) and extracted with EtOAc. The EtOAc extracts were washed with water, brine, dried over Na2SO4. The solvent was removed to provide a residue, which was subjected to flash chromatography purification to give the title compound 4-((1R,2S)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)benzo[b]thiophene-7-carbonitrile (173 mg, 63%) and some dehydration product 4-(1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)prop-1-enylamino)benzo[b]thiophene-7-carbonitrile (70 mg, 27%). Title compound: 1H NMR (400 MHz, Acetone-d6, δ in ppm) 8.16 (d, J=8.8 Hz, 2H), 7.95 (d, J=8.8 Hz, 2H), 7.87 (d, J=5.7 Hz, 1H), 7.72 (d, J=5.7 Hz, 1H), 7.62 (d, J=8.2 Hz, 1H), 6.83 (d, J=8.2 Hz, 1H), 6.48 (d, J=8.6 Hz, 1H), 5.25 (dd, J=4.3, 8.6 Hz, 1H), 4.79 (b, 1H), 4.66 (m, 1H), 1.42 (d, J=6.3 Hz, 3H). Dehydration product: 1H NMR (400 MHz, Acetone-d6, δ in ppm) 8.25 (d, J=8.2 Hz, 2H), 8.01 (d, J=8.2 Hz, 2H), 7.96 (d, J=5.5 Hz, 1H), 7.81 (d, J=5.5 Hz, 1H), 7.61 (d, J=8.2 Hz, 1H), 7.09 (q, J=7.0 Hz, 1H), 6.58 (d, J=8.2 Hz, 1H), 1.95 (d, J=7.0 Hz, 3H).

reactant | 4-((1R,2S)-2-(tert-butyldimethylsilyloxy)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)propylamino)benzo[b]thiophene-7-carbonitrile | 0.69 mmol, 355 mg | [Si](C)(C)(C(C)(C)C)O[C@H]([C@H](C=1OC(=NN1)C1=CC=C(C=C1)C#N)NC1=CC=C(C=2SC=CC21)C#N)C | C27H29N5O2SSi
reactant | TBAF | 0.70 mmol, 1 M, 0.70 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 33 mL | C1CCOC1 | C4H8O
product | 4-((1R,2S)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)benzo[b]thiophene-7-carbonitrile | 173 mg, 63% | C(#N)C1=CC=C(C=C1)C1=NN=C(O1)[C@@H]([C@H](C)O)NC1=CC=C(C=2SC=CC21)C#N | C21H15N5O2S
